US08232409B2
B. 2-{2-[2-(1-Oxa-2-aza-spiro[4.5]dec-2-en-3-yl)-1H-benzimidazol-5-yl]-phenyl}-propan-2-ol
Using the procedure for step D in Example 1, the title compound was prepared from 3-(5-bromo-1H-benzimidazol-2-yl)-1-oxa-2-aza-spiro[4.5]dec-2-ene (150 mg, 0.449 mmol, as prepared in the previous step) and 3,3-dimethyl-3H-benzo[c][1,2]oxaborol-1-ol (2.0 eq., 145 mg, 0.898 mmol, prepared as described in US2007/259936) and (dppf)PdCl2.DCM (0.10 eq., 36.6 mg, 0.045 mmol) in 9% yield (16.4 mg). 1H-NMR (400 MHz, d4-MeOH) δ: 7.82 (dd, J=8.1, 1.3 Hz, 1H), 7.53-7.68 (m, 1H), 7.47 (br. s., 1H), 7.35 (td, J=7.6, 1.6 Hz, 1H), 7.19-7.24 (m, 2H), 7.05 (dd, J=7.6, 1.3 Hz, 1H), 3.28 (s, 2H), 1.69-1.90 (m, 6H), 1.46-1.65 (m, 4H), 1.33 (s, 6H). Mass Spectrum (LCMS, ESI pos.): Calcd. for C24H27N3O2: 390.2 (M+H). found: 390.4.

reactant | 3-(5-bromo-1H-benzimidazol-2-yl)-1-oxa-2-aza-spiro[4.5]dec-2-ene | BrC1=CC2=C(NC(=N2)C2=NOC3(C2)CCCCC3)C=C1 | C15H16BrN3O
reactant | 3,3-dimethyl-3H-benzo[c][1,2]oxaborol-1-ol | 0.898 mmol, 145 mg, 2.0 eq. | CC1(C2=C(B(O1)O)C=CC=C2)C | C9H11BO2
reactant | DCM | 0.045 mmol, 36.6 mg, 0.10 eq. | C(Cl)Cl | CH2Cl2
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{2-[2-(1-Oxa-2-aza-spiro[4.5]dec-2-en-3-yl)-1H-benzimidazol-5-yl]-phenyl}-propan-2-ol | 9% yield | O1N=C(CC12CCCCC2)C2=NC1=C(N2)C=CC(=C1)C1=C(C=CC=C1)C(C)(C)O | C24H27N3O2
